US05292742
2-Butyl-6-[2-(4-pentenyl)-2H-tetrazol-5-yl]-4(1H)-quinazolinone
A mixture of 3.0 g of 2-butyl-6-(1H-tetrazol-5-yl)-4(1H)-quinazolinone, 2.2 g of 5-bromo-1-pentene and 2 ml of N,N-diisopropylethylamine in 50 ml of tetrahydrofuran is refluxed for 24 hours. The volatiles are evaporated in vacuo to a residue which is partitioned between chloroform and water. The organic layer is dried over MgSO4, filtered and evaporated in vacuo to a residue which is purified by column chromatography on silica gel by elution with 3:2 ethyl acetate-hexanes to give a residue which crystallizes from ethyl acetate-hexanes to give 2.0 g of the desired product as a solid, m.p. 130° C.

reactant | 2-butyl-6-(1H-tetrazol-5-yl)-4(1H)-quinazolinone | 3.0 g | C(CCC)C=1NC2=CC=C(C=C2C(N1)=O)C1=NN=NN1 | C13H14N6O
reactant | 5-bromo-1-pentene | 2.2 g | BrCCCC=C | C5H9Br
reactant | N,N-diisopropylethylamine | 2 ml | C(C)(C)N(C(C)C)CC | C8H19N
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 2-Butyl-6-[2-(4-pentenyl)-2H-tetrazol-5-yl]-4(1H)-quinazolinone | 2.0 g | C(CCC)C=1NC2=CC=C(C=C2C(N1)=O)C=1N=NN(N1)CCCC=C | C18H22N6O
